US09353113B2
tert-butyl 2-methyl-2-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]propanoate
To a solution (22 mL) of tert-butyl 2-hydroxy-2-methylpropanoate (1.0 g) in N,N-dimethylformamide was added sodium hydride (250 mg) under an ice bath, and the mixture was stirred at room temperature for 1 hour. Thereafter, under an ice bath, 2-(3-bromopropoxy)tetrahydro-2H-pyran (0.88 mL) was added dropwise, and the mixture was stirred at room temperature overnight. To the reaction mixture were added water and 1N hydrochloric acid under an ice bath, followed by extraction with t-butyl methyl ether. The organic layer was sequentially washed with an aqueous saturated sodium bicarbonate solution and an aqueous saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=8:1) to obtain the title compound having the following physical property values, as a mixture (400 mg) with tert-butyl 2-hydroxy-2-methylpropanoate.

reactant | tert-butyl 2-hydroxy-2-methylpropanoate | 22 mL, 1.0 g | OC(C(=O)OC(C)(C)C)(C)C | C8H16O3
reactant | sodium hydride | 250 mg | [H-].[Na+]
reactant | 2-(3-bromopropoxy)tetrahydro-2H-pyran | 0.88 mL | BrCCCOC1OCCCC1 | C8H15BrO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl 2-methyl-2-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]propanoate | CC(C(=O)OC(C)(C)C)(C)OCCCOC1OCCCC1 | C16H30O5
